US07067517B2
Methyl-phenyl-carbamic acid 2-methyl-quinolin-6-yl ester
A solution of 2-methylquinolin-6-ol (1.00 g, 6.28 mmol), N-methyl-N-phenylcarbamoyl chloride (1.07 g, 6.28 mmol) and 1,4-diazabicyclo[2,2,2]octane (0.70 g, 6.28 mmol) in dichloromethane (10 mL) was stirred at room temperature for 18 hours. Extra dichloromethane was added and the solution was extracted twice with water, dried over sodium sulphate and filtered. Some ethyl acetate and heptane were added and the solution was slowly evaporated in vacuo yielding the title compound (1.64 g, 89% yield) as a white solid.

reactant | 2-methylquinolin-6-ol | 6.28 mmol, 1.00 g | CC1=NC2=CC=C(C=C2C=C1)O | C10H9NO
reactant | N-methyl-N-phenylcarbamoyl chloride | 6.28 mmol, 1.07 g | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | 1,4-diazabicyclo[2,2,2]octane | 6.28 mmol, 0.70 g | N12CCN(CC1)CC2 | C6H12N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Methyl-phenyl-carbamic acid 2-methyl-quinolin-6-yl ester | 1.64 g, 89% yield | CC1=NC2=CC=C(C=C2C=C1)OC(N(C1=CC=CC=C1)C)=O | C18H16N2O2
